Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[O:3][C:4]([H:12])([H:13])[C:5]([H:7])([H:14])[O:6]1,83.5338073180024
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7]>>[C:3](=[O:4])([C:5](=[O:6])[H:12])[H:10].[H:7][H:11].[O:1]=[C:2]([H:8])[H:9],67.9083229753865
[N+:1]1([H:7])([H:8])[C-:2]([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12]>>[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8],17.3811877502281
[C:1]([C-:2]1[C:3]([H:12])([H:13])[C:4]2([C:5]([H:15])=[O+:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10].[H:11][H:14]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],5.435615618268017
[N+:1](#[C-:2])[N+:7]1=[C:3]=[C:4]([H:8])[O:5][N-:6]1>>[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],21.900256816768007
[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]1([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17].[O:6]([H:7])[H:18]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9],60.147253654816005
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6](=[C:7])[H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],44.0805681951948
[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:11].[C:2](=[C:3]=[O:4])([C:5]#[N:6])[H:10],82.81096751752492
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]#[C:5][H:14])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([C:4]#[C:5][H:14])[C@@:3]2([H:12])[C:6]1=[C:7]2[H:15])([H:8])([H:9])[H:10].[H:11][H:13],110.60215104781099
[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3](=[C:4]1/[N:5]([H:12])[O:6]1)[H:11])=[C:7]([H:13])[H:14])([H:8])([H:9])[H:10],75.09911171957721
[H:10][H:12].[N:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8],74.0726922399404
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]([H:14])[H:15])([H:12])[H:13].[O:6]([H:11])[H:16],43.9343711239353
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[O:1]([C:5]1=[C:6]([H:10])[C@@:2]1([C:3](=[O:4])[H:9])[H:8])[H:7],71.4576002702002
[C:1]1([H:8])([H:9])[O:2][C@@:3]1([O:4][H:7])[C:5]([O:6][H:12])([H:10])[H:11]>>[C:1]([O:2][C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],51.947021767695105
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O+:6]=[C:5]([N:4]([C-:3]([H:13])[H:14])[H:15])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],78.04722372422691
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:3]#[N:4].[n:1]1[c:2]([H:8])[c:7]([H:10])[c:6]([H:9])[o:5]1,54.92658886318949
[N-:1]([C+:2]([O-:5])[C:7](=[C:6]([N+:4]#[N:3])[H:9])[H:10])[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],20.2557191238361
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C+:4]([O:5][H:14])=[C:6]([O-:7])[H:15].[C:1]([C:2]([O:3][H:12])([H:11])[H:13])([H:8])([H:9])[H:10],76.89316256185342
[O:1]1[C:2]([H:8])([H:9])[C@:3]([O:4][H:11])([H:10])[C:5]1=[C:6]([H:7])[H:12]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7],85.5624152498373
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]#[C:5][H:13])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:5](=[C:4])[H:13])[H:9])([H:6])([H:7])[H:8],57.4906103967661
[C:1](/[C:2](=[C:3](\[O:4][H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7],54.737940252349105
[O:1]([C:4](=[C:3]=[C:2]([H:8])[H:9])[C:5]#[C:6][H:10])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:10])([H:8])[H:9])[H:7],63.65503040399734
[C:1](=[N:2][H:10])([H:7])[H:9].[C:3](=[O:4])([C:5]#[C:6][H:11])[H:8]>>[C:1]([N:2]([C:3](=[O:4])[C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9],48.961265329592
[C:1]([O:2][C:3]([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[O:2][C:3]([H:10])([H:11])[C:4]1=[O:5].[C:6]([H:9])([H:12])([H:13])[H:14],89.1862202320356
[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[N+:1](#[C-:2])[N-:6][N+:7]#[C:3][C:4](=[O:5])[H:8],110.85349148969401
[C:1]([H:5])([H:6])([H:7])[H:12].[C:2]1([H:8])=[C:4]([H:11])[C:3]1([H:9])[H:10]>>[C:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:5])([H:6])[H:7],76.74494431983129
